* Xyce Common Source Circuit

.lib "../../Models/libs.tech/Xyce/sky130.lib.spice" tt

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_01v8 W = 0.58 L = 0.15
R1 d vdd 1000

V1 g 0 DC 1 AC 1 SIN(0 1 1k)
VDD vdd 0 1.8


*****************
** Analysic
*****************
.AC DEC 10 1 1000G
.print AC FILE=./xyce_results/sky130_fd_pr__nfet_01v8_ac_W_0.58_L_0.15_tt_xyce.csv FORMAT=CSV {vdb(d)}

.end
